US07049307B2
dimethyl-[2-(4-nitro-indazol-2-yl)-ethyl]-amine
4-Nitroindazole (1.00 g, 6.13 mmol) was dissolved in 20 mL of N,N-dimethylformamide and potassium carbonate (2.50 g, 18.1 mmol) was added. The mixture was stirred for 30 minutes and then (2-chloro-ethyl)-dimethyl-amine hydrochloride (1.33 g 9.23 mmol) was added. The reaction mixture was heated to 60° C. for 6 hours, cooled to room temperature. The mixture was filtered through a plug of silica gel and rinsed with triethylamine/ethyl acetate (1/4). The filtrate was concentrated in vacuo to remove N,N-dimethylformamide and the residue purified by flash chromatography (silica gel, triethylamine/ethyl acetate 1/30). 1H NMR (300 MHz, DMSO-d6) ppm 2.19 (s, 6H), 2.84 (t, 2H, J=6.44) 4.65 (t, 2H, J=6.44), 7.49 (dd, 1H, J1=8.48, J2=7.8), 8.18(m, 1H), 8.20 (m, 1H), 8.91 (s, 1H); MS (DCI/NH3) m/z 235 [M+H]+.

reactant | 4-Nitroindazole | 6.13 mmol, 1.00 g | [N+](=O)([O-])C1=C2C=NNC2=CC=C1 | C7H5N3O2
reactant | potassium carbonate | 18.1 mmol, 2.50 g | C([O-])([O-])=O.[K+].[K+]
reactant | (2-chloro-ethyl)-dimethyl-amine hydrochloride | 9.23 mmol, 1.33 g | Cl.ClCCN(C)C
solvent | N,N-dimethylformamide | 20 mL | CN(C=O)C | C3H7NO
product | dimethyl-[2-(4-nitro-indazol-2-yl)-ethyl]-amine | CN(CCN1N=C2C=CC=C(C2=C1)[N+](=O)[O-])C | C11H14N4O2
